US04277486
A mixture of 0.7 g. of 1-[(6-ethyl-2-naphthoyl)methyl]imidazole, 4 ml of ethylene glycol and 1.3 g. of anhydrous p-toluenesulfonic acid in 50 ml. of toluene is heated overnight under reflux through a Dean-Stark trap. Thetrap is the replaced by a separatory funnel containing 4 A molecular sievesand heating is continued for a further day. After cooling, the mixture is treated with 100 ml. of ethyl acetate, neutralized by pouring into excess aqueous potassium carbonate and the organic phase separated, washed with water, dried (MgSO4) and evaporated to afford 1-[2,2-ethylenedioxy-2-(6-ethyl-2-naphthyl)ethyl]imidazole. This is purified by chromatography on silica gel eluting with 10% methanol/dichloromethane and the hydrochloride salt prepared by dropwise addition of ethereal hydrogen chloride until precipitation is complete. Filtration and recrystallization from acetone/methanol gives 0.38 g. pure hydrochloride, m.p. 251° C.

reactant | 1-[(6-ethyl-2-naphthoyl)methyl]imidazole | C(C)C=1C=C2C=CC(=CC2=CC1)C(=O)CN1C=NC=C1 | C17H16N2O
reactant | ethylene glycol | 4 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[2,2-ethylenedioxy-2-(6-ethyl-2-naphthyl)ethyl]imidazole | C1OC(CN2C=NC=C2)(C2=CC3=CC=C(C=C3C=C2)CC)OC1 | C19H20N2O2
